US09233985B2
A solution of 7-chloro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid hydrochloride (1.70 g, 6.85 mmol) in 1,4-dioxane (11 mL) and 1 M aqueous NaOH (22.3 mL, 22.3 mmol) was cooled in an ice-water bath and treated with a second solution of di-tert-butyldicarbonate (1.87 g, 8.56 mmol) in 1,4-dioxane (11 mL). After 15 min and the cooling bath was removed and stirring was continued for 2 h. The resulting mixture was diluted with water (25 mL) and washed with ethyl acetate (50 mL). The aqueous phase was adjusted to pH˜3 with 1M citric acid and extracted with ethyl acetate (2×75 mL). The combined organic phase was washed with saturated aqueous sodium chloride (50 mL), dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel chromatography (90 g column, 25-75% ethyl acetate in hexanes) to give 2-(tert-butoxycarbonyl)-7-chloro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (1.61 g, 79%) as a white solid. 1H NMR (DMSO-d6, 400 MHz) δ 12.8 (s, 1 H), 7.34 (m, 1 H), 7.24 (m, 2 H), 4.88 (m, ˜0.5 H), 4.67 (m, ˜0.5 H), 4.50 (m, 2 H), 3.10 (m, 2 H), 1.46 (s, ˜4.5 H), 1.40 (s, ˜4.5 H) (mixture of rotamers). LC-MS gives ESE MS found for C15H18ClNO4 m/z 310.1 (M−H).

reactant | 7-chloro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid hydrochloride | 6.85 mmol, 1.70 g | Cl.ClC1=CC=C2CC(NCC2=C1)C(=O)O
reactant | NaOH | 22.3 mmol, 1 M, 22.3 mL | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 8.56 mmol, 1.87 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 11 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 11 mL | O1CCOCC1 | C4H8O2
product | 2-(tert-butoxycarbonyl)-7-chloro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 1.61 g, 79% | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1C(=O)O)Cl | C15H18ClNO4
